US07939550B2
1-methyl-5-nitro-1H-pyrazole-3-carboxylic acid methyl ester
500 mg (2.93 mM) of 5-nitro-1H-pyrazole-3-carboxylic acid methyl ester was dissolved in 5 ml of N,N-dimethylformamide, to which 810 mg (5.86 mM, eq) of potassium carbonate was added. Subsequently, 0.49 ml (3.22 mM) of iodomethane was added dropwise thereto at 0° C., and the resulting mixture was stirred under a nitrogen atmosphere for 1 hour. The solvent was distilled off under reduced pressure, and the resultant was extracted with ethyl acetate and brine. The organic solvent layer was dried over anhydrous sodium sulfate, filtered, and then distilled under reduced pressure. The resulting impure compound was purified by column chromatography (hexane:ethyl acetate=10:1), to obtain 314 mg (56%) of the title compound.

reactant | 5-nitro-1H-pyrazole-3-carboxylic acid methyl ester | 2.93 mM, 500 mg | COC(=O)C1=NNC(=C1)[N+](=O)[O-] | C5H5N3O4
reactant | potassium carbonate | 5.86 mM, 810 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 3.22 mM, 0.49 ml | IC | CH3I
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-methyl-5-nitro-1H-pyrazole-3-carboxylic acid methyl ester | 314 mg, 56% | COC(=O)C1=NN(C(=C1)[N+](=O)[O-])C | C6H7N3O4
